US05010083
A mixture of 67.0 g of 1,2,3,4-tetrahydro-6-methoxy-3-(methoxycarbonyl)-2-oxo-4-quinoline acetic acid, methyl ester and 13 g of sodium chloride in 23 ml of water and 300 ml of dimethyl sulfoxide was heated at 155° C. for 6 hours, cooled, and diluted with 1.2 l of a 1:1 mixture of ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate, and the combined organic layers were washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 1,2,3,4-tetrahydro-6-methoxy-2-oxo-4-quinoline acetic acid, methyl ester.

reactant | 1,2,3,4-tetrahydro-6-methoxy-3-(methoxycarbonyl)-2-oxo-4-quinoline acetic acid, methyl ester | 67.0 g | COC=1C=C2C(C(C(NC2=CC1)=O)C(=O)OC)CC(=O)OC | C15H17NO6
reactant | sodium chloride | 13 g | [Cl-].[Na+]
solvent | water | 23 ml | O | H2O
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2,3,4-tetrahydro-6-methoxy-2-oxo-4-quinoline acetic acid, methyl ester | COC=1C=C2C(CC(NC2=CC1)=O)CC(=O)OC | C13H15NO4
